### PR TITLE
feat: direct sum of matroids

### PR DESCRIPTION
**Pull request by madvorak**
Co-authored-by: Ivan Sergeev <i.i.sergeyev@gmail.com>
Discussion: https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.2312380.20direct.20sum.20of.20matroids

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/DirectSum.lean [hunk 1]
```diff
@@ -0,0 +1,269 @@
...
+    constructor
+    · exact ⟨hI₁, hI₂⟩
+    · intro B hB hIB
+      rw [Set.subset_iff_subsets_of_disjoint hB.ground]
+      constructor
+      · exact hB₁ hB.leftIndep (Set.inter_subset_inter_left M₁.E hIB)
+      · exact hB₂ hB.rightIndep (Set.inter_subset_inter_left M₂.E hIB)
+
+/-- Direct sum of matroids as a matroid. -/
+def indepMatroidDirectSum {M₁ M₂ : IndepMatroid α} (hME : M₁.E ∩ M₂.E = ∅) : IndepMatroid α :=
```
Comment (apnelson1) [inline Mathlib/Data/Matroid/DirectSum.lean:166]: The intention with `IndepMatroid` was just that is it is an intermediate step towards defining a `Matroid` with alternative axioms. It makes sense to define direct sum using `IndepMatroid` internally, but the final input and output types should be `Matroid`. 

You can do this using `IndepMatroid.matroid`

File: Mathlib/Data/Matroid/DirectSum.lean [hunk 2]
```diff
@@ -0,0 +1,269 @@
...
+Authors: Martin Dvorak, Ivan Sergeev
+-/
+import Mathlib.Data.Matroid.IndepAxioms
+
+/-!
+# Direct sum of matroids
+
+## Main definitions
+
+* `indepMatroidDirectSum` custructs an `IndepMatroid` that is the direct sum of two `IndepMatroid`
```
Comment (apnelson1) [inline Mathlib/Data/Matroid/DirectSum.lean:13]:
```suggestion
* `indepMatroidDirectSum` constructs an `IndepMatroid` that is the direct sum of two `IndepMatroid`
```

File: Mathlib/Data/Matroid/DirectSum.lean [hunk 3]
```diff
@@ -0,0 +1,269 @@
...
+    (S₁ ∪ S₂) ∩ E₂ = S₂ := by
+  rw [Set.union_comm]
+  rw [Set.inter_comm] at hE
+  exact Set.union_inter_eq_fst hE hX₂ hX₁
+
+set_option linter.unusedVariables false in
+/-- Direct sum of matroids as a set operation. -/
+@[nolint unusedArguments]
+def indepDirectSum {M₁ M₂ : IndepMatroid α} (hME : M₁.E ∩ M₂.E = ∅) (I : Set α) : Prop :=
+  ∃ I₁ I₂ : Set α, I₁ ∪ I₂ = I ∧ M₁.Indep I₁ ∧ M₂.Indep I₂
```
Comment (apnelson1) [inline Mathlib/Data/Matroid/DirectSum.lean:94]:
```suggestion
I ⊆ M₁.E ∪ M₂.E ∧ M₁.Indep (I ∩ M₁.E) ∧ M₂.Indep (I ∩ M₂.E)
```
could this be easier to work with?

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 1 above)
Comment (apnelson1) [inline Mathlib/Data/Matroid/DirectSum.lean:166]:
```suggestion
def indepMatroidDirectSum {M₁ M₂ : IndepMatroid α} (hME : Disjoint M₁.E M₂.E) : IndepMatroid α :=
```

File: Mathlib/Data/Matroid/DirectSum.lean [hunk 4]
```diff
@@ -0,0 +1,269 @@
...
+    apply (Set.inter_subset_inter_left E₁ hX₂.right).trans
+    rwa [Set.inter_comm] at hE
+
+lemma Set.union_inter_eq_snd {S₁ S₂ E₁ E₂ X₁ X₂ : Set α}
+    (hE : E₁ ∩ E₂ = ∅) (hX₁ : S₁ ⊆ X₁ ∩ E₁) (hX₂ : S₂ ⊆ X₂ ∩ E₂) :
+    (S₁ ∪ S₂) ∩ E₂ = S₂ := by
+  rw [Set.union_comm]
+  rw [Set.inter_comm] at hE
+  exact Set.union_inter_eq_fst hE hX₂ hX₁
+
```
Comment (apnelson1) [inline Mathlib/Data/Matroid/DirectSum.lean:89]: The above set lemmas aren't anything to do with matroids; presumably they can either go in the `Set` API, or be replaced with things already there.

**Review by apnelson1 — CHANGES_REQUESTED** [review]

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 1 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/DirectSum.lean:166]: Thanks!

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 4 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/DirectSum.lean:89]: Which file would our lemmas be welcome in? I am afraid they are too specialized to be in the `Set` API.

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 3 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/DirectSum.lean:94]: I think so. Would it be good as a definition tho?

**Comment by madvorak** [comment]
The change from `(hME : M₁.E ∩ M₂.E = ∅)` to `(hME : Disjoint M₁.E M₂.E)` does not seem to be helpful. This is how the latter is defined:
```
def Disjoint (a b : α) : Prop :=
  ∀ ⦃x⦄, x ≤ a → x ≤ b → x ≤ ⊥
```
In our setting, it means:
```
def Disjoint (a b : Set α) : Prop :=
  ∀ x : Set α, x ⊆ a → x ⊆ b → x ⊆ ∅
```
The second line is equivalent to saying just:
```
a ∩ b = ∅
```
I believe it is easier to work with `a ∩ b = ∅` than with `x ⊆ a → x ⊆ b → x ⊆ ∅`.
Therefore, I would like to keep `(hME : M₁.E ∩ M₂.E = ∅)` in all arguments.

**Comment by apnelson1** [comment]
> The change from `(hME : M₁.E ∩ M₂.E = ∅)` to `(hME : Disjoint M₁.E M₂.E)` does not seem to be helpful. This is how the latter is defined:
> 
> ```
> def Disjoint (a b : α) : Prop :=
>   ∀ ⦃x⦄, x ≤ a → x ≤ b → x ≤ ⊥
> ```
> 
> In our setting, it means:
> 
> ```
> def Disjoint (a b : Set α) : Prop :=
>   ∀ x : Set α, x ⊆ a → x ⊆ b → x ⊆ ∅
> ```
> 
> The second line is equivalent to saying just:
> 
> ```
> a ∩ b = ∅
> ```
> 
> I believe it is easier to work with `a ∩ b = ∅` than with `x ⊆ a → x ⊆ b → x ⊆ ∅`. Therefore, I would like to keep `(hME : M₁.E ∩ M₂.E = ∅)` in all arguments.

Mathlib style disagrees with you. The useful api for `Set.Disjoint` is in `Data.Set.Basic` rather than the file you're referring to where disjointness is defined more abstractly. It should contain everything you need - I know from experience it is much easier to use that than to work with intersections.

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 3 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/DirectSum.lean:94]: Once you have a lemma showing equivalence, it isn't particularly important what the definition is.

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 1 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/DirectSum.lean:168]: All right, I added `matroidDirectSum`. Should `indepMatroidDirectSum` be changed to `private def` now?

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 3 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/DirectSum.lean:96]: It is our lemma `indepDirectSum_iff`.

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 1 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/DirectSum.lean:168]: If so, I will remove `indepMatroidDirectSum` from the module docstring.

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 4 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/DirectSum.lean:91]: `Data.Set.Basic` if anywhere. But I think they can probably be removed with some golfing.

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 1 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/DirectSum.lean:168]: it can probably be `Matroid.directSum`. And yes, `indepMatroidDirectSum` should either be made private or completely removed - you can just have the code that you used to definite it go inside `Matroid.directSum`.

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 4 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/DirectSum.lean:91]: Are you suggesting we should massage them into the "big" proofs?

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 1 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/DirectSum.lean]: I made it private. Should other (even more low-level) definitions and lemmas be also private?

**Comment by eric-wieser** [comment]
The key thing here is that how `Disjoint` is defined is largely irrelevant; what's relevant is the API that is provided for it.

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 4 above)
Comment (fpvandoorn) [reply Mathlib/Data/Matroid/DirectSum.lean:89]: Many of these lemmas are just a combination of 2 lemmas from sets, so you can indeed just use these two lemmas about sets in the big proof.

File: Mathlib/Data/Matroid/DirectSum.lean [hunk 5]
```diff
@@ -0,0 +1,275 @@
...
+/-!
+# Direct sum of matroids
+
+## Main definitions
+
+* `Matroid.directSum` constructs a matroid that is the direct sum of two matroids on disjoint
+  ground sets of the same type
+-/
+
+variable {α : Type*}
```
Comment (fpvandoorn) [inline Mathlib/Data/Matroid/DirectSum.lean:17]: `open Set` and shorten all lemma names used in proofs.

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 4 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/DirectSum.lean:89]: But will the code be better if we inline them into the "big" proof?

File: Mathlib/Data/Matroid/DirectSum.lean [hunk 6]
```diff
@@ -0,0 +1,275 @@
...
+      I ⊆ M₁.E ∪ M₂.E ∧
+        I ∩ M₁.E ∈ maximals (· ⊆ ·) M₁.Indep ∧
+        I ∩ M₂.E ∈ maximals (· ⊆ ·) M₂.Indep := by
+  dsimp only [maximals, Set.mem_setOf_eq]
+  constructor
+  · intro hyp
+    have I_grounded : I ⊆ M₁.E ∪ M₂.E := hyp.left.ground
+    rw [indepDirectSum_iff hME I_grounded] at hyp
+    obtain ⟨⟨hM₁, hM₂⟩, hB⟩ := hyp
+    have I_as : I = I ∩ M₁.E ∪ I ∩ M₂.E := (Set.union_inters_of_subset_union I_grounded).symm
```
Comment (fpvandoorn) [inline Mathlib/Data/Matroid/DirectSum.lean:133]:
```suggestion
    have I_as : I = I ∩ M₁.E ∪ I ∩ M₂.E := by
      simp_rw [← Set.inter_union_distrib_left, left_eq_inter, I_grounded]
```
not actually much longer without your lemma

File: Mathlib/Data/Matroid/DirectSum.lean [hunk 7]
```diff
@@ -0,0 +1,275 @@
...
+    · exact I_grounded
+    constructor
+    · constructor
+      · exact hM₁
+      · intro B₁ hB₁ hI₁
+        rw [I_as, Set.union_inter_distrib_right, Set.inter_assoc, Set.inter_assoc,
+            Set.inter_comm M₂.E, hME, Set.inter_empty, Set.union_empty, Set.inter_self]
+        exact Set.subset_inter_of_redundant_right
+          (hB ⟨B₁, I ∩ M₂.E, rfl, hB₁, hM₂⟩ (I_as ▸ Set.union_inter_aux hI₁))
+          (M₁.subset_ground _ hB₁)
```
Comment (fpvandoorn) [inline Mathlib/Data/Matroid/DirectSum.lean:144]:
```suggestion
        rw [I_as, Set.union_inter_distrib_right, Set.inter_assoc, Set.inter_assoc,
            Set.inter_comm M₂.E, hME, Set.inter_empty, Set.union_empty, Set.inter_self,
            subset_inter_iff]
        specialize hB ⟨B₁, I ∩ M₂.E, rfl, hB₁, hM₂⟩ (I_as ▸ Set.union_inter_aux hI₁)
        exact ⟨subset_union_left _ _ |>.trans hB, M₁.subset_ground _ hB₁⟩
```

File: Mathlib/Data/Matroid/DirectSum.lean (hunk 3 above)
Comment (fpvandoorn) [reply Mathlib/Data/Matroid/DirectSum.lean:94]: The definition suggested by @apnelson1 is almost certainly easier to work with.

Comment (madvorak) [reply Mathlib/Data/Matroid/DirectSum.lean:94]: Yes, it is. However, either way, we provide a translation between these two definitions. The question is which one should be the official definition. The original one seems to be more recognizable for human readers. Do you agree?
